US07365069B2
Synthesis of ethyl 2-(4-fluorophenyl)-4-(methylthio)-1-[4-(methylthio)phenyl]-6-oxo-1,6-dihydropyrimidine-5-carboxylate
The title compound was prepared from diethyl [bis(methylthio)methylene]malonate (5.3 g, 20 mmol) and N-(4-methythiophenyl)-4-(fluoro)benzenecarboximidamide (5.2 g, 20 mmol) (prepared according to the procedure described in preparation 2) by following the procedure described in example 41 (0.25 g, yield 2.9%, mp 166-169° C., purity 96.84% by HPLC). 1H-NMR (CDCl3):δ 1.36-1.4 (t, 3H), 2.45 (s, 3H), 2.55 (s, 3H), 4.38-4.43 (q, 2H), 6.91-6.96 (m, 2H), 7.01-7.03 (d, 2H), 7.16-7.18 (d, 2H), 7.33-7.37 (m, 2H). IR (KBr) cm−1: 3447, 3069, 2989, 2900, 1733, 1666. MS m/z:431.2.0(M+).

reactant | diethyl [bis(methylthio)methylene]malonate | 20 mmol, 5.3 g | CSC(SC)=C(C(=O)OCC)C(=O)OCC | C10H16O4S2
reactant | N-(4-methythiophenyl)-4-(fluoro)benzenecarboximidamide | 20 mmol, 5.2 g | CSC1=CC=C(C=C1)NC(=N)C1=CC=C(C=C1)F | C14H13FN2S
reactant | KBr | [K+].[Br-]
product | ethyl 2-(4-fluorophenyl)-4-(methylthio)-1-[4-(methylthio)phenyl]-6-oxo-1,6-dihydropyrimidine-5-carboxylate | yield 2.9% | FC1=CC=C(C=C1)C=1N(C(C(=C(N1)SC)C(=O)OCC)=O)C1=CC=C(C=C1)SC | C21H19FN2O3S2
